************************************************************************
* auCdl Netlist:
* 
* Library Name:  gsclib045
* Top Cell Name: SDFFTRXL
* View Name:     schematic
* Netlisted on:  Jun  4 07:50:18 2012
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL VSS:G
+        VDD:P
+        ExtVDD:P
+        ExtVSS:G

*.PIN VSS
*+    VDD
*+    ExtVDD
*+    ExtVSS

************************************************************************
* Library Name: gsclib045
* Cell Name:    SDFFTRXL
* View Name:    schematic
************************************************************************

.SUBCKT SDFFTRXL CK D Q QN RN SE SI VDD VSS
*.PININFO CK:I D:I RN:I SE:I SI:I VDD:I VSS:I Q:O QN:O
Mmn12 net484 SI VSS VSS g45n1svt m=1 l=45n w=145n
Mmn13 Dbp SE net484 VSS g45n1svt m=1 l=45n w=145n
Mmn0 net476 RN VSS VSS g45n1svt m=1 l=45n w=145n
Mmn1 Db D net476 VSS g45n1svt m=1 l=45n w=145n
Mmn57 QN net436 VSS VSS g45n1svt m=1 l=45n w=145n
Mmn55 Q qbint VSS VSS g45n1svt m=1 l=45n w=145n
Mmn50 net460 qbint VSS VSS g45n1svt m=1 l=45n w=145n
Mmn51 n30 CKb net460 VSS g45n1svt m=1 l=45n w=145n
Mmn35 net452 mout VSS VSS g45n1svt m=1 l=45n w=145n
Mmn36 n20 CKbb net452 VSS g45n1svt m=1 l=45n w=145n
Mmn20 CKb CK VSS VSS g45n1svt m=1 l=45n w=145n
Mmn45 qbint n30 VSS VSS g45n1svt m=1 l=45n w=145n
Mmn56 net436 qbint VSS VSS g45n1svt m=1 l=45n w=145n
Mmn11 Db SEb Dbp VSS g45n1svt m=1 l=45n w=145n
Mmn21 CKbb CKb VSS VSS g45n1svt m=1 l=45n w=145n
Mmn30 mout n20 VSS VSS g45n1svt m=1 l=45n w=145n
Mmn10 SEb SE VSS VSS g45n1svt m=1 l=45n w=145n
Mmn25 Dbp CKb n20 VSS g45n1svt m=1 l=45n w=145n
Mmn40 n30 CKbb mout VSS g45n1svt m=1 l=45n w=145n
Mmp13 Dbp SEb net411 VDD g45p1svt m=1 l=45n w=215n
Mmp12 net411 SI VDD VDD g45p1svt m=1 l=45n w=215n
Mmp1 Db D VDD VDD g45p1svt m=1 l=45n w=215n
Mmp0 Db RN VDD VDD g45p1svt m=1 l=45n w=215n
Mmp51 n30 CKbb net395 VDD g45p1svt m=1 l=45n w=215n
Mmp50 net395 qbint VDD VDD g45p1svt m=1 l=45n w=215n
Mmp57 QN net436 VDD VDD g45p1svt m=1 l=45n w=215n
Mmp55 Q qbint VDD VDD g45p1svt m=1 l=45n w=215n
Mmp35 net375 mout VDD VDD g45p1svt m=1 l=45n w=215n
Mmp36 n20 CKb net375 VDD g45p1svt m=1 l=45n w=215n
Mmp20 CKb CK VDD VDD g45p1svt m=1 l=45n w=215n
Mmp45 qbint n30 VDD VDD g45p1svt m=1 l=45n w=215n
Mmp56 net436 qbint VDD VDD g45p1svt m=1 l=45n w=215n
Mmp25 n20 CKbb Dbp VDD g45p1svt m=1 l=45n w=215n
Mmp11 Dbp SE Db VDD g45p1svt m=1 l=45n w=215n
Mmp10 SEb SE VDD VDD g45p1svt m=1 l=45n w=215n
Mmp21 CKbb CKb VDD VDD g45p1svt m=1 l=45n w=215n
Mmp30 mout n20 VDD VDD g45p1svt m=1 l=45n w=215n
Mmp40 n30 CKb mout VDD g45p1svt m=1 l=45n w=215n
.ENDS

